US07632837B2
Preparation of 1-(6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-3-(ethylamino)pyrrolidine-3-carboxamide
A suspension of 3-chloro-6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine (113 mg, 0.3 mmol) and 3-(ethylamino)pyrrolidine-3-carboxamide (94 mg, 0.6 mmol) in ethylene glycol (2 mL) was stirred at 110° C. for 2 h. Analysis by HPLC/MS indicated the reaction was not complete. Additional 3-(ethylamino)pyrrolidine-3-carboxamide (47 mg, 0.3 mmol) was added. The reaction continued at 110° C. for 1 h more. After cooling to room temperature, the reaction mixture was loaded onto a silica gel cartridge (12 g), eluted with a gradient of MeOH (0-6%) in CH2Cl2 to obtain 40 mg of desired product with 90% purity. The product was further purified using reverse phase preparative HPLC (Conditions: Phenomenex Luna 5μ C18 21.2×100 mm; Eluted with 40% to 90% B, 8 min gradient, 90% B hold for 3 min, (A=90% H2O, 10% MeOH, 0.1% trifluoroacetic acid and B=10% H2O, 90% MeOH, 0.1% trifluoroacetic acid); Flow rate at 20 mL/min, UV detection at 220 nm) to yield the product as a TFA salt. The product was dissolved in EtOAc, washed with saturated aqueous NaHCO3, water, saturated aqueous NaCl, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was lyophilized in acetonitrile to afford 30 mg (20%) of the title compound as a yellow powder. HPLC/MS (method A): retention time=2.75 min, (M+H)+=496.2. 1H NMR (CDCl3, 400 MHz): δ 7.81 (s, 1H), 7.28-7.38 (m, 4H), 7.19-7.26 (m, 2H), 7.01-7.07 (m, 2H), 5.39 (s, 1H), 4.00-4.15 (m, 5H), 2.54-2.65 (m, 3H), 2.12 (m, 1H), 1.40-1.55 (m, 1H), 1.10 (t, J=7.09 Hz, 3H).

reactant | 3-chloro-6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.3 mmol, 113 mg | ClC1=NN=C2N1N=C(C(=C2)C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C17H9Cl3N4
reactant | 3-(ethylamino)pyrrolidine-3-carboxamide | 0.6 mmol, 94 mg | C(C)NC1(CNCC1)C(=O)N | C7H15N3O
reactant | 3-(ethylamino)pyrrolidine-3-carboxamide | 0.3 mmol, 47 mg | C(C)NC1(CNCC1)C(=O)N | C7H15N3O
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
product | 1-(6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)-3-(ethylamino)pyrrolidine-3-carboxamide | 40 mg | ClC1=C(C=CC=C1)C=1C(=CC=2N(N1)C(=NN2)N2CC(CC2)(C(=O)N)NCC)C2=CC=C(C=C2)Cl | C24H23Cl2N7O
